US05051508
1-(2-Methylphenyl)-4-methyl-6-methoxy-2,3-dihydropyrrolo[3,2-c]quinoline (4.57 g, 15 mmol) in diphenyl ether (50 ml) was heated at reflux with 10% palladium-on-charcoal (1.0 g) for 1 hour then the catalyst removed on celite. Chromatography (silica gel, 1% methanolic ammonia in dichloromethane) and recrystallisation from ethyl acetate/petroleum ether gave 1-(2-methylphenyl)-4-methyl-6methoxypyrrolo[3,2-c]quinoline(2.2 g, 48%), m.p. 143°-145°.

reactant | 1-(2-Methylphenyl)-4-methyl-6-methoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 15 mmol, 4.57 g | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OC)C | C20H20N2O
solvent | diphenyl ether | 50 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
catalyst | palladium-on-charcoal | 1.0 g | [Pd] | Pd
product | 1-(2-methylphenyl)-4-methyl-6methoxypyrrolo[3,2-c]quinoline | 2.2 g, 48% | CC1=C(C=CC=C1)N1C=CC=2C(=NC=3C(=CC=CC3C21)OC)C | C20H18N2O
